US07291744B2
Step a: Synthesis of Ethyl-3-(4-Fluorophenyl)propenoate.
4-Fluorobenzaldehyde (27.2 ml, 0.23 Mol) and carboethoxymethylenetriphenylphosphorane (88.38 g, 0.23 Mol) were disolved in toluene (500 ml), and the mixture was heated overnight at reflux. The reaction was stripped then purified by flash chromatography in 25% EtOAc/Hexanes yielded 44.55g of a crystalline solid as product. NMR (300 MHz, CDCl3) δ 7.65 (d, 1H, J=16 Hz); 7.60-7.40 (m, 2H); 7.08 (t, 2H, J=7 Hz); 6.35 (d, 1H, J=16 Hz); 4.26 (q, 2H, J=7 Hz); 1.34 (t, 3H, J=7 Hz).

reactant | 4-Fluorobenzaldehyde | 0.23 Mol, 27.2 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | carboethoxymethylenetriphenylphosphorane | 0.23 Mol, 88.38 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl-3-(4-Fluorophenyl)propenoate | 44.55g | C(C)OC(C=CC1=CC=C(C=C1)F)=O | C11H11FO2
